US07271170B2
Step 7. Preparation of 4-amino-6-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-2-methyl-5-propyl-pyrimidine (126)
Pd/C (10%, 10 mg) is added to a solution of 4-azido-6-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-2-methyl-5-propyl-pyrimidine (2 mmol) (125) in MeOH (20 ml) and the mixture is stirred under H2 at 30 psi for 4 hours. The catalyst is filtered out and the filtrate is evaporated in vacuo. The resulting light yellow solid (126) is used in the next step without further purification.

reactant | 4-azido-6-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-2-methyl-5-propyl-pyrimidine | 2 mmol | N(=[N+]=[N-])C1=NC(=NC(=C1CCC)CN1C(=NC=C1)C1=NC(=CC=C1)F)C | C17H17FN8
solvent | MeOH | 20 ml | CO | CH4O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 4-amino-6-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-2-methyl-5-propyl-pyrimidine | NC1=NC(=NC(=C1CCC)CN1C(=NC=C1)C1=NC(=CC=C1)F)C | C17H19FN6
